US09254251B2
Preparation of 3-adamantan-1-yl-N-(2,4-dihydroxybenzyl)-4-methoxybenzamide
0.03 g of the target compound is obtained as white solid in substantially the same manner as in Example 11, except for using 3-adamantan-1-yl-4-methoxybenzoic acid instead of 3-adamantan-1-yl-4-hydroxybenzoic acid and using 2,4-dihydroxybenzylamine instead of 3,4-dihydroxybenzylamine.

reactant | 3-adamantan-1-yl-4-methoxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2OC | C18H22O3
reactant | 2,4-dihydroxybenzylamine | OC1=C(CN)C=CC(=C1)O | C7H9NO2
product | 3-adamantan-1-yl-N-(2,4-dihydroxybenzyl)-4-methoxybenzamide | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)NCC3=C(C=C(C=C3)O)O)C=CC2OC | C25H29NO4
